US06353025B1
Ethyl N-[2,6-dichloro-4-[2-[[(1S, 2R)-2-hydroxy-2-(4-hydroxyphenyl)-1-methylethyl]amino]ethyl]phenyl]aminoacetate (44.3 mg) was dissolved in 2-methoxyethylamine (886 μl), and the solution was stirred for 48 hours at 80° C. The reaction mixture was concentrated in vacuo, and purification of the residue by medium pressure liquid column chromatography on aminopropyl silica gel (eluent: dichloromethane/methanol=10/1) gave 2-[[2,6-dichloro-4-[2-[[(1S, 2R)-2-hydroxy-2-(4-hydroxyphenyl)-1-methylethyl]amino]ethyl]phenyl]amino]-N-(2-methoxyethyl)-acetamide (27.7 mg).

reactant | Ethyl N-[2,6-dichloro-4-[2-[[(1S, 2R)-2-hydroxy-2-(4-hydroxyphenyl)-1-methylethyl]amino]ethyl]phenyl]aminoacetate | 44.3 mg | ClC1=C(C(=CC(=C1)CCN[C@H]([C@@H](C1=CC=C(C=C1)O)O)C)Cl)NCC(=O)OCC | C21H26Cl2N2O4
reactant | 2-methoxyethylamine | 886 μl | COCCN | C3H9NO
product | 2-[[2,6-dichloro-4-[2-[[(1S, 2R)-2-hydroxy-2-(4-hydroxyphenyl)-1-methylethyl]amino]ethyl]phenyl]amino]-N-(2-methoxyethyl)-acetamide | 27.7 mg | ClC1=C(C(=CC(=C1)CCN[C@H]([C@@H](C1=CC=C(C=C1)O)O)C)Cl)NCC(=O)NCCOC | C22H29Cl2N3O4
